US07714010B2
To a suspension of N-(3,3-diethyl-1-methyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (1.2 g) in acetic acid (5 ml) at 0° C. is added nitric acid (fuming, 0.5 ml) drop-wise. The mixture is stirred at RT for 30 min and then poured into ice-water. The precipitate is collected by filtration and washed with water to give N-(3,3-diethyl-1-methyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (1,38 g).

reactant | N-(3,3-diethyl-1-methyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1.2 g | C(C)C1(C(N(C2=CC=C(C=C12)NC(C)=O)C)=O)CC | C15H20N2O2
reactant | nitric acid | 0.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-(3,3-diethyl-1-methyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1,38 g | C(C)C1(C(N(C2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])C)=O)CC | C15H19N3O4
